US05057614
An ice-cooled solution of 4.6 g of 1-(2-hydroxyethyl)indole in 10 ml of diethyl ether was treated with 1 ml of pyridine and 4 ml of acetic anhydride. After 2 hours 50 ml of water were added, the mixture was extracted with 100 ml of dichloromethane and the dichloromethane extract was dried. The solvent was evaporated to give 5.7 g of 1-(2-acetoxyethyl)indole.

reactant | 1-(2-hydroxyethyl)indole | 4.6 g | OCCN1C=CC2=CC=CC=C12 | C10H11NO
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 50 ml | O | H2O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1-(2-acetoxyethyl)indole | 5.7 g | C(C)(=O)OCCN1C=CC2=CC=CC=C12 | C12H13NO2
